US04272534
A solution of methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate (10 g) in n-dodecylamine (15 g) is heated for 50 minutes at 110° C. The reaction mixture is chromatographed on silica gel (200 g) contained in a column of diameter 3.7 cm. Elution is carried out with a cyclohexane-ethyl acetate mixture (90:10 by volume; 1800 cc), one 300 cc fraction and three 500 cc fractions being collected. Fractions 2 to 4 are combined and concentrated to dryness (20 mm Hg; 2.7 kPa) at 40° C.; the residue (14.2 g) is dissolved in ethanol (75 cc). The solution, to which decolourising charcoal (0.3 g) is added, is filtered hot and then kept, after cooling, for 30 minutes at a temperature of about 0° C. The crystals which have appeared are filtered off, washed twice with ethanol (40 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. The resulting product (11.5 g) is dissolved in boiling ethanol (75 cc) and the solution, to which decolourising charcoal (0.3 g) is added, is filtered hot and then kept, after cooling, for 30 minutes at a temperature of about 0° C. The crystals which have appeared are filtered off, washed twice with ethanol (50 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 35° C. N-n-Dodecyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide (10.2 g), melting at 60° C., is thus obtained.

reactant | methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate | 10 g | N1=C(C=CC=C1)C1(SCCC1)C(=S)SC | C11H13NS3
reactant | n-dodecylamine | 15 g | C(CCCCCCCCCCC)N | C12H27N
product | N-n-Dodecyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide | 10.2 g | C(CCCCCCCCCCC)NC(=S)C1(SCCC1)C1=NC=CC=C1 | C22H36N2S2
